US06844335B2
1.1. Preparation of Ethyl 3-(4-pyridyl)-3-oxopropionate
Isonicotinic acid (35.56 g, 289 mmol) was added to a solution of 1,1′-carbonylbis-1H-imidazole (46.98 g, 290 mmol) in tetrahydrofuran (700 ml), and the resulting solution was stirred for 1.5 hr at 50° C. After cooling to room temperature, malonic acid monoester potassium salt (51.7 g, 304 mmol) and magnesium chloride (34.33 g, 361 mmol) were added, and the mixture was refluxed for 1 hr and then heated at 50° C. for 6 hr. The solvent was removed under reduced pressure and the residue was quenched by the addition of dilute acetic acid. The organic layer was extracted with ethyl acetate (3 times) and the combined extracts were washed with dilute aqueous sodium bicarbonate and brine, and were concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; hexane/ethyl acetate=2/1 to 1/1) and recrystallization from hexane-ethyl acetate gave 41.52 g (74%) of the title compound.

reactant | Isonicotinic acid | 289 mmol, 35.56 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 1,1′-carbonylbis-1H-imidazole | 290 mmol, 46.98 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium chloride | 361 mmol, 34.33 g | [Cl-].[Mg+2].[Cl-]
reactant | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | Ethyl 3-(4-pyridyl)-3-oxopropionate | 41.52 g, 74% | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
